US06291432B1
(R)-N-(2-methylbenzyl)-3-{(2S,3S)-3-[N-(2-benzofurancarbonyl)-L-asparaginyl]amino-2-hydroxy-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4-carboxamide (Bfc-Asn-Apns-Dmt-NHBzl(2-Me))
4N HCl/dioxane (2 ml) was added to Boc-Asn-Apns-Dmt-NHBzl(2-Me) (197 mg) obtained in the step 1 of Example 6 and the mixture was stirred for two hours. After concentration, the reaction mixture was dissolved in DMF (3 ml) and neutralized with Et3N (0.042 ml). 2-benzofurancarboxylic acid (54 mg), HOBt (45 mg), and EDC.HCl (69 mg) were added to this solution, and the mixture was stirred overnight. After the addition of ethyl acetate, the reaction mixture was washed with 3% NaHCO3, 1N HCl, and 5% NaCl and dried over MgSO4. After filtration and concentration, the residue was purified using silica gel column chromatography and reprecipitated from ethyl acetate/n-hexane to obtain the title compound (108 mg).

reactant | HCl dioxane | 4N, 2 ml | Cl.O1CCOCC1
reactant | (R)-N-(2-methylbenzyl)-3-{(2S,3S)-3-[N-(tert-butoxycarbonyl)-L-asparaginyl]amino-2-hydroxy-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4-carboxamide | 197 mg | CC1=C(CNC(=O)[C@H]2N(CSC2(C)C)C([C@H]([C@H](CC2=CC=CC=C2)NC([C@@H](NC(=O)OC(C)(C)C)CC(N)=O)=O)O)=O)C=CC=C1 | C33H45N5O7S
product | (R)-N-(2-methylbenzyl)-3-{(2S,3S)-3-[N-(2-benzofurancarbonyl)-L-asparaginyl]amino-2-hydroxy-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4-carboxamide | 108 mg | CC1=C(CNC(=O)[C@H]2N(CSC2(C)C)C([C@H]([C@H](CC2=CC=CC=C2)NC([C@@H](NC(=O)C=2OC3=C(C2)C=CC=C3)CC(N)=O)=O)O)=O)C=CC=C1 | C37H41N5O7S
